### PR TITLE
Remove ports_in_use from semantics

### PR DESCRIPTION
**Pull request by jihgfee**

### CODE REVIEW

File: aneris/aneris_lang/lang.v [hunk 1]
```diff
@@ -684,30 +684,33 @@ Arguments aneris_of_val !v.
...
    - a map [Sn] associating each socket handler with a tuple of a socket and
-     the receive buffer, and
-   - a map [P] tracking for each ip address the ports in use on the ip. *)
+     the receive buffer *)
 Definition heap := gmap loc val.
 Definition sockets := gmap socket_handle (socket * list message).
-Definition ports_in_use := gmap ip_address (gset port).
+
+(* Definition for helping us decide wheter ports are free *)
+Definition port_not_in_use p (sockets : gmap socket_handle (socket * list message)) :=
```
Comment (jihgfee) [inline aneris/aneris_lang/lang.v:695]: Add explicit type of `p` and return type.

Rule of thumb is to have all types explicit in definitions.

File: aneris/aneris_lang/program_logic/aneris_lifting.v [hunk 2]
```diff
@@ -45,6 +45,17 @@ Section lifting_pure_exec.
     induction n as [|n IH]; by rewrite //= -step_fupd_intro // IH.
   Qed.
 
+  (* Used in documentation *)
+  Lemma aneris_wp_pure_step_later_alt n E e1 e2 φ P Q :
+  PureExec φ 1 (mkExpr n e1) (mkExpr n e2) →
```
Comment (jihgfee) [inline aneris/aneris_lang/program_logic/aneris_lifting.v:50]: Incorrect indentation - Should have 2 spaces after Lemma

File: aneris/aneris_lang/program_logic/aneris_lifting.v [hunk 3]
```diff
@@ -145,6 +156,17 @@ Section lifting_node_local.
     auto.
   Qed.
 
+  (* Used in documentation *)
+  Lemma aneris_wp_fork_alt P n E e:
+  {{{ P }}} e @[n] {{{w, RET w; True }}} →
```
Comment (jihgfee) [inline aneris/aneris_lang/program_logic/aneris_lifting.v:161]: Incorrect indentation

File: aneris/aneris_lang/program_logic/aneris_lifting.v [hunk 4]
```diff
@@ -277,6 +299,21 @@ Section lifting_network.
     done.
   Qed.
 
+  (* Used in documentation *)
+  Lemma aneris_wp_start_alt n P ports e E :
+  n ≠ "system" →
```
Comment (jihgfee) [inline aneris/aneris_lang/program_logic/aneris_lifting.v:304]: Incorrect indentation

File: aneris/aneris_lang/program_logic/aneris_weakestpre.v [hunk 5]
```diff
@@ -443,6 +443,18 @@ Proof.
   by rewrite /unallocated /to_singletons gset_map.gset_map_singleton.
 Qed.
 
+(* Used in documentation *)
+Lemma aneris_wp_socket_interp_alloc_singleton_alt Ψ n E e Q P sa : 
+TCEq (to_val e) None →
```
Comment (jihgfee) [inline aneris/aneris_lang/program_logic/aneris_weakestpre.v:448]: Incorrect indentation

File: aneris/aneris_lang/state_interp/state_interp_def.v [hunk 6]
```diff
@@ -85,30 +84,22 @@ Section definitions.
...
          (∀ ip, ip ∈ free_ips →
                 state_heaps σ !! ip = None ∧ state_sockets σ !! ip = None) ∧
-         (* free ports and bound ports are disjoint *)
-         (∀ ip ps, free_ports !! ip = Some (GSet ps) →
-                   ∃ bound_ports,
-                     (state_ports_in_use σ) !! ip = Some bound_ports ∧
-                     ps ## bound_ports )⌝) ∗
+        (* free ports and bound ports are disjoint *)     
+        (∀ ip ps, free_ports !! ip = Some (GSet ps) →
+        ∀ Sn sh skt r sa, (state_sockets σ) !! ip = Some Sn →
```
Comment (jihgfee) [inline aneris/aneris_lang/state_interp/state_interp_def.v:93]: This seems very similar to `port_not_in_use`.
Can the two be unified?
This would give a more clear connection between the two.

File: aneris/aneris_lang/state_interp/state_interp_free_ips_coh.v [hunk 7]
```diff
@@ -78,83 +77,107 @@ Section state_interpretation.
...
+    split; auto. split; try apply HFip.
     intros ip' ?.
     split; [|set_solver].
     destruct (decide (ip = ip')); simplify_map_eq; [set_solver|].
-    by apply HFip2.
+    by apply HFip.
   Qed.
 
-  Lemma free_ips_coh_alloc_socket σ ip Sn sh sock :
+  (* !!! gør den her pænere *)
```
Comment (jihgfee) [inline aneris/aneris_lang/state_interp/state_interp_free_ips_coh.v:89]: Often good to explicitly write "TODO" in these comments, and do them in english.
Historically these kinds of things often end up in master :P

File: aneris/aneris_lang/state_interp/state_interp_def.v [hunk 8]
```diff
@@ -83,32 +82,23 @@ Section definitions.
...
-        free_ips_auth free_ips ∗
-        free_ports_auth free_ports)%I.
-
-  (** Network sockets coherence for bound ports, socket handlers,
+      (* the domains of [free_ips] and [free_ports] are disjoint *)
+      (⌜dom free_ports ## free_ips ∧
+      (* if the ip [ip] is free, neither a heap nor a socket map has been
+          allocated *)
+      (∀ ip, ip ∈ free_ips →
+              state_heaps σ !! ip = None ∧ state_sockets σ !! ip = None) ∧
```
Comment (jihgfee) [inline aneris/aneris_lang/state_interp/state_interp_def.v:90]: Suggestion:
Use an abstraction alike the following to capture the notion of a free ip semantically
```
  Definition ip_is_free (ip : ip_address) (σ : state) : Prop :=
    state_heaps σ !! ip = None ∧ state_sockets σ !! ip = None ∧
    state_ports_in_use σ !! ip = Some ∅.
 ```

File: aneris/aneris_lang/state_interp/state_interp_free_ips_coh.v [hunk 9]
```diff
@@ -20,36 +20,32 @@ Section state_interpretation.
   (** free_ips_coh *)
   Lemma free_ips_coh_init ip ips σ :
```
Comment (jihgfee) [inline aneris/aneris_lang/state_interp/state_interp_free_ips_coh.v:21]: This lemma can likely be generalised as follows (provided the aforementioned`ip_is_free` definition:
```
  Lemma free_ips_coh_init ips σ :
    (∀ ip, ip ∈ ips → ip_is_free ip σ) →
    free_ips_auth ips ∗ free_ports_auth ∅ -∗
    free_ips_coh σ.
```
